US04187316
A solution of 2.53 g (10 m mole) of methyl 3-(tert-butoxycarbonylamino)-1,5-cyclohexadienecarboxylate in 40 ml of carbontetrachloride at 0° C. is treated dropwise with 1.60 g (10 m mole) of bromine. The solution is stirred at 25° C. for 12 hours, then evaporated under reduced pressure to afford the crude dibromide which is dissolved in 40 ml of acetone and treated with 1.2 g (10 m mole) of diazabicyclooctane for 12 hours at 25° C. The solvent is evaporated under reduced pressure, and the residue is treated with ether and water. The organic phase is dried and evaporated to afford methyl 3-tert-butoxycarbonylamino-6-bromo-1,5-cyclohexadienecarboxylate.

reactant | methyl 3-(tert-butoxycarbonylamino)-1,5-cyclohexadienecarboxylate | 2.53 g | C(C)(C)(C)OC(=O)NC1C=C(C=CC1)C(=O)OC | C13H19NO4
reactant | bromine | 1.60 g | BrBr | Br2
reactant | diazabicyclooctane | 1.2 g | N1(NCCCCCC1)C1CCCCCCC1 | C14H28N2
solvent | carbontetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | methyl 3-tert-butoxycarbonylamino-6-bromo-1,5-cyclohexadienecarboxylate | C(C)(C)(C)OC(=O)NC1C=C(C(=CC1)Br)C(=O)OC | C13H18BrNO4
